US05728686
Diethyl [5-(7-cyclopropylmethyl-3-methylxanthin-1-yl)pentyl]phosphonate
The title substance was prepared from 0.011 mol of diethyl [5-(3-methyl-xanthin-1-yl)pentyl]phosphonate and 0.013 mol of chloromethylcyclo-propane analogously to Example 46.

reactant | diethyl [5-(3-methyl-xanthin-1-yl)pentyl]phosphonate | 0.011 mol | CN1C(N(C(C=2NC=NC12)=O)CCCCCP(OCC)(OCC)=O)=O | C15H25N4O5P
reactant | chloromethylcyclo-propane | 0.013 mol | ClCC1CC1 | C4H7Cl
product | Diethyl [5-(7-cyclopropylmethyl-3-methylxanthin-1-yl)pentyl]phosphonate | C1(CC1)CN1C=NC=2N(C(N(C(C12)=O)CCCCCP(OCC)(OCC)=O)=O)C | C19H31N4O5P
